US04343893
Compound 17: p-nitrohydrocinnamic acid
In a 2-liter, 3-necked, round-bottomed flask equipped with mechanical stirrer, thermometer, and addition funnel was placed 361 g (2.41 mol) of hydrocinnamic acid which was warmed to 50° to maintain it in a liquid state. To the warm liquid was added slowly dropwise over a 4 hour period with good stirring a mixture of 241 g of nitric acid and 546 g of sulfuric acid. The reaction is very exothermic so that a water cooling bath was required to which ice was added occasionally to keep the temperature at 50° C. The very thick reaction mixture was stirred for an additional 2 hours and poured onto 3 liters of ice. The solid was collected by filtration and washed repeatedly with a total of 6 liters of water. After air drying, the entire sample was recrystallized from 800 ml of acetone, giving a first crop of 150.4 g mp. 162°-164° C.

reactant | hydrocinnamic acid | 2.41 mol, 361 g | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | nitric acid | 241 g | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 546 g | S(O)(O)(=O)=O | H2O4S
product | p-nitrohydrocinnamic acid | [N+](=O)([O-])C1=CC=C(CCC(=O)O)C=C1 | C9H9NO4
